US05464865
Ethyl 6-bromohexanoate and the sodium salt of 2-naphthol are reacted in DMF at 70° to provide ethyl 6-(2-naphthyloxy)hexanoate, which after the usual workup is reduced with lithium aluminum hydride in THF to provide 6-(2-naphthyloxy)hexanol.

reactant | Ethyl 6-bromohexanoate | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | sodium | [Na] | Na
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 6-(2-naphthyloxy)hexanoate | C1=C(C=CC2=CC=CC=C12)OCCCCCC(=O)OCC | C18H22O3
